US04032652
p-Fluoroaniline (2.2 g., 0.02 m.) is added to a hot solution of 4.24 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in 150 ml. of methanol. The mixture is refluxed overnight and filtered to give 5-acetyl-3-[1-(p-fluorophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6-(3H)-dione, m.p. 199°-201° C.

reactant | p-Fluoroaniline | 2.2 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(p-fluorophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6-(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=CC=C(C=C1)F)O | C15H12FNO5
